US04904674
The acid chloride of 5-[2-(benzo[b]thiophen-3-yl)ethenyl]thiophene-2-carboxylic acid was prepared as described in Example 9. To a solution of 5-[2-(benzo[b]thiophen-3-yl)ethenyl]thiophene-2-carboxylic acid chloride (5.0 g) and pyridine (50 ml) was added 2,2-dimethyl-1,3-dioxolane-4-methanol (2.17 g). After refluxing overnight, the mixture was evaporated. The residue was dissolved in ethyl acetate, filtered, and concentrated. The residue was purified by high performance liquid chromatography (silica gel, loaded and eluted in 2:1 ethyl acetate:hexane). The appropriate fractions were combined and evaporated. Trituration of the residue with hexane yielded 2.60 g (39%) of product, mp 77°-79° C.

reactant | 5-[2-(benzo[b]thiophen-3-yl)ethenyl]thiophene-2-carboxylic acid chloride | 5.0 g | S1C2=C(C(=C1)C=CC1=CC=C(S1)C(=O)Cl)C=CC=C2 | C15H9ClOS2
reactant | 2,2-dimethyl-1,3-dioxolane-4-methanol | 2.17 g | CC1(OCC(O1)CO)C | C6H12O3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 5-[2-(benzo[b]thiophen-3-yl)ethenyl]thiophene-2-carboxylic acid | S1C2=C(C(=C1)C=CC1=CC=C(S1)C(=O)O)C=CC=C2 | C15H10O2S2
